US08557830B2
Phosphorous oxychloride (2.15 mL, 23.0 mmol) was added dropwise to a solution of 6-methyl-5-nitroisoquinoline N-oxide (0.940 g, 4.60 mmol) in 1,2-dichloroethane (40.0 mL). The mixture was heated to 70° C. for 3 h to afford an off-white suspension. The mixture was concentrated and the residue was partitioned between dichloromethane and water. The aqueous phase was separated and extracted with dichloromethane. The combined organic phases were washed with saturated aqueous sodium bicarbonate solution, brine, dried over anhydrous sodium sulfate, filtered, and concentrated to afford 1-chloro-6-methyl-5-nitroisoquinoline (0.880 g, 86% yield) as an off-white solid. MS (ESI, pos. ion) m/z: 223.0 [M+H]+

reactant | Phosphorous oxychloride | 23.0 mmol, 2.15 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 6-methyl-5-nitroisoquinoline N-oxide | 4.60 mmol, 0.940 g | CC=1C(=C2C=C[N+](=CC2=CC1)[O-])[N+](=O)[O-] | C10H8N2O3
solvent | 1,2-dichloroethane | 40.0 mL | ClCCCl | C2H4Cl2
product | 1-chloro-6-methyl-5-nitroisoquinoline | 0.880 g, 86% yield | ClC1=NC=CC2=C(C(=CC=C12)C)[N+](=O)[O-] | C10H7ClN2O2
